US09126950B2
Synthesis of tert-butyl (2-chloro-5-fluoropyrimidin-4-yl)(3-(N-hydroxyacrylamido)phenyl)carbamate.
In a 25 ml 3-neck RBF was equipped with a magnetic stirrer and CaCl2 guard tube was added tert-butyl (2-chloro-5-fluoropyrimidin-4-yl)(3-(hydroxyamino)phenyl)carbamate (0.409 g in 5 ml DCM). The reaction was cooled to −40° C. and acryloyl chloride (0.114 g in 3 ml DCM) was slowly added. The reaction mixture was warmed to room temperature and stirred at room temperature for 30 min. The reaction was monitored on TLC using hexane:ethyl acetate (7:3) as mobile phase. The reaction was complete after 30 min and was poured in water (100 ml) and basified using sodium bicarbonate solution. The reaction mixture was extracted with DCM (2×25 ml) and the combined organic layer was washed with brine solution, dried over sodium sulfate and concentrated completely under reduced pressure at 40° C. Crude material was purified by using column chromatography. Product was eluted with 14% ethyl acetate in hexane to give, after concentration, 0.250 g of tert-butyl (2-chloro-5-fluoropyrimidin-4-yl)(3-(N-hydroxyacrylamido)phenyl)carbamate

reactant | tert-butyl (2-chloro-5-fluoropyrimidin-4-yl)(3-(hydroxyamino)phenyl)carbamate | 5 ml, 0.409 g | ClC1=NC=C(C(=N1)N(C(OC(C)(C)C)=O)C1=CC(=CC=C1)NO)F | C15H16ClFN4O3
reactant | acryloyl chloride | 3 ml, 0.114 g | C(C=C)(=O)Cl | C3H3ClO
reactant | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | water | 100 ml | O | H2O
product | tert-butyl (2-chloro-5-fluoropyrimidin-4-yl)(3-(N-hydroxyacrylamido)phenyl)carbamate | ClC1=NC=C(C(=N1)N(C(OC(C)(C)C)=O)C1=CC(=CC=C1)N(C(C=C)=O)O)F | C18H18ClFN4O4
